US04897420
Potassium nitrosodisulfonate (12 g) and sodium acetate (12 g) are suspended in methanol-water (5:2, 210 ml), and 11-(2-hydroxy-3,4-dimethoxy-6-methylpheyl)-2-methylundecan-2-ol (2.4 g) is added thereto. The mixture is stirred at 50° C. for 14 hours and then diluted with water (100 ml). The methanol is distilled off. The aqueous soliution is extracted with ethyl acetate (200 ml), and the extract is washed with water, dried and concentrated under reduced pressure. The residue is subjected to silica gel column chromatography to give 1.7 g of 6-(10-hydroxy-10-methylundecyl)-2,3-dimethoxy-5-methyl-1,4-benzoquinone as an orange oil.

reactant | Potassium nitrosodisulfonate | 12 g | N([O])(S(=O)(=O)[O-])S(=O)(=O)[O-].[K+].[K+]
reactant | sodium acetate | 12 g | C(C)(=O)[O-].[Na+]
reactant | 11-(2-hydroxy-3,4-dimethoxy-6-methylpheyl)-2-methylundecan-2-ol | 2.4 g | OC1=C(C(=CC(=C1OC)OC)C)CCCCCCCCCC(C)(O)C | C21H36O4
solvent | methanol water | 210 ml | CO.O
solvent | water | 100 ml | O | H2O
product | 6-(10-hydroxy-10-methylundecyl)-2,3-dimethoxy-5-methyl-1,4-benzoquinone | 1.7 g | OC(CCCCCCCCCC1=C(C(C(=C(C1=O)OC)OC)=O)C)(C)C | C21H34O5
